### ISSUE TITLE
Using progress tactic

### ISSUE THREAD

**Issue by zhassan-aws** [AeneasVerif/aeneas#103]
As discussed offline, here is a simple example where I'm unable to apply the progress tactic:
```lean
def foo (a : U32) : Result U32 :=
  do
  let a1 ← a + 1#u32
  if a1 = 2#u32
  then Result.ret 42#u32
  else Result.ret 77#u32

theorem foo_spec (a : U32) : foo a = Result.ret 42#u32 → a = 1#u32 := by
  simp [foo]
  /-
  a : U32
  ⊢ (do
        let a1 ← a + 1#u32
        if a1 = 2#u32 then Result.ret 42#u32 else Result.ret 77#u32) =
      Result.ret 42#u32 →
    a = 1#u32
  -/
  /-
  Progress failed
  -/
  progress
```
In other cases, the error was of the form: `Not an equality: ...`.

If the theorem doesn't involve an implication, it works, e.g.:
```lean
theorem foo_spec2 (a : U32) : foo 1#u32 = Result.ret 42#u32 := by
  simp [foo]
  /-
  a : U32
  ⊢ (do
      let a1 ← 1#u32 + 1#u32
      if a1 = 2#u32 then Result.ret 42#u32 else Result.ret 77#u32) =
    Result.ret 42#u32
  -/
  progress
  /-
  case intro.intro
  a x✝ : U32
  _✝ : x✝.val = 1#u32.val + 1#u32.val
  ⊢ (if x✝ = 2#u32 then Result.ret 42#u32 else Result.ret 77#u32) = Result.ret 42#u32
  -/
  simp_all

```

**Comment by sonmarcho** [comment]
Thanks for this! Indeed, `progress` doesn't expect to see an implication, so maybe we need to generalize it a bit (or at least print a nice error message).
